US05998433
b) Synthesis of 2-dimethylaminomethyl-5-(6-phenylhexyl)-6,7-dihydro-5H-furo[3,2-c]pyridin-4-one
To a solution of 0.242 g (0.814 mmol) of 5-(6-phenylhexyl)-6,7-dihydro-5H-furo[3,2-c]pyridin-4-one in 10 ml of acetic acid, 0.37 g (4.1 mmol) of 50% aqueous dimethylamine and 0.33 g (4.1 mmol) of 37% aqueous formaldehyde were added, followed by overnight refluxing. After the solvent was distilled off under reduced pressure, the residual solution was alkalified with aqueous sodium hydroxide and extracted with ethyl acetate 3 times. The combined organic layer was dried over anhydrous magnesium sulfate; the solvent was distilled off under reduced pressure. The resulting crude product was purified by silica gel column chromatography (ethyl acetate to ethyl acetate/methanol=4/1) to yield the desired product.

reactant | 5-(6-phenylhexyl)-6,7-dihydro-5H-furo[3,2-c]pyridin-4-one | 0.814 mmol, 0.242 g | C1(=CC=CC=C1)CCCCCCN1C(C2=C(CC1)OC=C2)=O | C19H23NO2
reactant | dimethylamine | 4.1 mmol, 0.37 g | CNC | C2H7N
reactant | formaldehyde | 4.1 mmol, 0.33 g | C=O | CH2O
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 2-dimethylaminomethyl-5-(6-phenylhexyl)-6,7-dihydro-5H-furo[3,2-c]pyridin-4-one | CN(C)CC1=CC=2C(N(CCC2O1)CCCCCCC1=CC=CC=C1)=O | C22H30N2O2
